US06114325
[2-[[N-[2-(Diethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 29)
4N Hydrochloric acid--ethyl acetate solution (0.20 ml) was added to a solution of [2-[[N-[2-(diethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.42 g) in ethyl acetate (5 ml) at room temperature. After being stirred for 15 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.35 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[2-(diethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.42 g | C(C)N(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CC | C33H59N3O3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.20 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[2-(Diethylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.35 g | Cl.C(C)N(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CC | InChI=1S/C33H59N3O3.ClH/c1-4-7-8-9-10-11-12-13-14-15-16-17-18-19-20-23-27-36(30-37)32-25-22-21-24-31(32)29-39-33(38)34-26-28-35(5-2)6-3;/h21-22,24-25,30H,4-20,23,26-29H2,1-3H3,(H,34,38);1H
